US07253286B2
7-Methoxy-4-(5-nitrothiophen-2-ylsulfanyl)quinoline-6-carboxamide
4-Chloro-7-methoxyquinoline-6-carboxamide (1.18 g, 5.00 mmol)-and sodium sulfide (1.20 g, 5.50 mmol) were heated and stirred in dimethylformamide (10 ml) at 60° C. for 3 hours. After cooling the reaction solution to room temperature, 2-bromo-5-nitrothiophene (1.25 g, 6.00 mmol) was added and the mixture was further heated and stirred at 60° C. for 1 hour. The reaction solution was returned to room temperature and then poured into ice water (50 ml), and the precipitated crystals were filtered out, washed with water and methanol and then blow-dried to obtain the title compound (700 mg, 1.94 mmol, 39%) as yellowish-brown crystals.

reactant | 4-Chloro-7-methoxyquinoline-6-carboxamide | 5.00 mmol, 1.18 g | ClC1=CC=NC2=CC(=C(C=C12)C(=O)N)OC | C11H9ClN2O2
reactant | sodium sulfide | 5.50 mmol, 1.20 g | [S-2].[Na+].[Na+]
reactant | 2-bromo-5-nitrothiophene | 6.00 mmol, 1.25 g | BrC=1SC(=CC1)[N+](=O)[O-] | C4H2BrNO2S
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 7-Methoxy-4-(5-nitrothiophen-2-ylsulfanyl)quinoline-6-carboxamide | 1.94 mmol, 700 mg, 39% | COC1=C(C=C2C(=CC=NC2=C1)SC=1SC(=CC1)[N+](=O)[O-])C(=O)N | C15H11N3O4S2
